US07741327B2
To a solution containing (S)-3-cyclohexyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester (1.82 g, 6.48 mmol) in tetrahydrofuran (15 mL) was treated with an aqueous solution of lithium hydroxide monohydrate (8.4 mL, 1.0 M, 8.42 mmol). The mixture was stirred at 25° C. for 2 h then, acidified with 2N aqueous hydrochloric acid. The mixture was extracted with ethyl acetate (2×30 mL). The combined organic layers were dried over magnesium sulfate and concentrated to afford (S)-3-cyclohexyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid, (1.35 g, 75%) as a yellow solid.

reactant | (S)-3-cyclohexyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester | 6.48 mmol, 1.82 g | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC)=O)=O | C15H23NO4
reactant | lithium hydroxide monohydrate | 8.42 mmol, 1.0 M, 8.4 mL | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (S)-3-cyclohexyl-2-(4-methoxy-2-oxo-2,5-dihydro-pyrrol-1-yl)-propionic acid | 1.35 g, 75% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC)=O | C14H21NO4
